US07179934B2
A flask was charged with 7.2 g (36 mmol) of (S)-2-(2,4-difluoro-benzyl)-butan-1-ol and 30 mL of dichloromethane, and the solution was cooled to 0° C. To this solution was added 7.53 mL (54 mmol) of triethylamine, and the mixture was stirred cold for 5 minutes. Then 3.1 mL (39.6 mmol) of methane sulfonyl chloride was added dropwise. The reaction mixture was stirred at room temperature for 16 hours. The dichloromethane was removed under reduced pressure, and the residue was partitioned between 1 N HCl aq. and diethyl ether. The ether layer was collected and washed with sat. aq. sodium bicarbonate, water, and brine. The ether layer was dried over sodium sulfate, filtered, and the ether was removed under reduced pressure. This procedure gave 9.54 g (95% yield) of (2S)-methanesulfonic acid 2-(2,4-difluoro-benzyl)-butyl ester as an orange oil. This material was used without further purification.

reactant | (S)-2-(2,4-difluoro-benzyl)-butan-1-ol | 36 mmol, 7.2 g | FC1=C(C[C@@H](CO)CC)C=CC(=C1)F | C11H14F2O
reactant | triethylamine | 54 mmol, 7.53 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 39.6 mmol, 3.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (2S)-methanesulfonic acid 2-(2,4-difluoro-benzyl)-butyl ester | 9.54 g, 95% yield | FC1=C(C[C@@H](COS(=O)(=O)C)CC)C=CC(=C1)F | C12H16F2O3S
